US04663453
4-Methyl-7-(4-methyl-1-piperazinyl)-1,2-dihydrobenzo[c]pyrrolo[1,2,3-ef][1,5]benzodiazepine
A solution of 4-methyl-1,2-dihydrobenzo[c]pyrrolo[1,2,3-ef][1,5]benzodiazepin-7-one (3.6 g, 14.3 mmoles), N-methylpiperazine (16 ml) and toluene (350 ml) was heated to 110° C. Titanium tetrachloride (4.3 ml) was added in three portions in two minute intervals. The mixture was heated under reflux for two hours and cooled to room temperature. Toluene (500 ml) and ice-water (500 m) were added. The mixture was stirred for 30 minutes and the insoluble material was removed by filtration. The organic phase was separated. The aqueous phase was extracted with toluene (200 ml). The combined toluene solutions were washed with water (300 ml), brine (2 times, 300 ml) and dried over anhydrous sodium sulfate. The solvent was evaporated. The residue was triturated with ethanol:hexane to a solid. Recrystallization of the solid from chloroform:hexane yielded 2.4 g of product. The mother liquor was concentrated and the residue was purified on a silica gel column (60 g, 230-400 mesh) to give a second crop of 1.3 g of product (77% overall yield). Recrystallization from 2-propanol gave the analytical sample, mp 173°-174° C.

reactant | 4-methyl-1,2-dihydrobenzo[c]pyrrolo[1,2,3-ef][1,5]benzodiazepin-7-one | 14.3 mmoles, 3.6 g | CC=1C=C2C=3N(C4=C(C(N2)=O)C=CC=C4)CCC3C1 | C16H14N2O
reactant | N-methylpiperazine | 16 ml | CN1CCNCC1 | C5H12N2
catalyst | Titanium tetrachloride | 4.3 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | Toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Methyl-7-(4-methyl-1-piperazinyl)-1,2-dihydrobenzo[c]pyrrolo[1,2,3-ef][1,5]benzodiazepine | 2.4 g | CC=1C=C2C=3N(C4=C(C(=N2)N2CCN(CC2)C)C=CC=C4)CCC3C1 | C21H24N4
